US07112593B2
In an ice bath, 26 ml of methanesulfonyl chloride was added dropwise in to a mixture of 10 g of cis-2-buten-1,4-diol, 63 ml of triethylamine and 1000 ml of ethyl acetate, followed by stirring at the same temperature for 3 hours. Then, the insoluble matters were removed by filtration. The filtrate was further filtered through silica gel and washed with ethyl acetate. Then, the filtrate was evaporated, to give 21.4 g of cis-1,4-bis(methanesulfonyloxy)-2-butene.

reactant | methanesulfonyl chloride | 26 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | cis-2-buten-1,4-diol | 10 g | C(\C=C/CO)O | C4H8O2
reactant | triethylamine | 63 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 1000 ml | C(C)(=O)OCC | C4H8O2
product | cis-1,4-bis(methanesulfonyloxy)-2-butene | 21.4 g | CS(=O)(=O)OC\C=C/COS(=O)(=O)C | C6H12O6S2
